US06043254
(a) 5-(4-amino-benzylidene)-thiazolidin-2,4-dione
Prepared by catalytic hydrogenation of 5-(4-nitro-benzylidene)-thiazolidin-2,4-dione [melting point: 265-270° C.; obtained by heating 4-nitro-benzaldehyde and 2 equivalents of thiazolidin-2,4-dione in the presence of piperidine in toluene using a water separator] in glacial acetic acid on palladium/charcoal (10%) (50° C., 3.5 bar, 0.5 hours).

reactant | 5-(4-nitro-benzylidene)-thiazolidin-2,4-dione | [N+](=O)([O-])C1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C10H6N2O4S
reactant | 4-nitro-benzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | thiazolidin-2,4-dione | 2 equivalents | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 5-(4-amino-benzylidene)-thiazolidin-2,4-dione | NC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C10H8N2O2S
